US04977146
STEP 1G: 1-(3-Methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1,4-diol
This compound was prepared from 1-(3-methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl)-4-(3,4,5-trimethoxy- phenyl)butan-1,4-dione as shown for (-)-(1S)-1-(3-methylsulfonyl-4-n-propoxy-5-benzyloxy phenyl)-4-(3,4,5-trimethoxyphenyl) butan-1-ol-4-one and used without further purification.

reactant | 1-(3-methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl)-4-(3,4,5-trimethoxy- phenyl)butan-1,4-dione | CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O | C30H34O9S
reactant | (-)-(1S)-1-(3-methylsulfonyl-4-n-propoxy-5-benzyloxy phenyl)-4-(3,4,5-trimethoxyphenyl) butan-1-ol-4-one | CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)[C@H](CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)O | C30H36O9S
product | 1-(3-Methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1,4-diol | CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)C(CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O | C30H38O9S
